// Generated for: spectre
// Generated on: Nov  5 13:39:04 2010
// Design library name: 4BitKSA
// Design cell name: UBKSA_3_0_3_0
// Design view name: schematic
simulator lang=spectre

// Library name: CORE9GPLL
// Cell name: ND2LL
// View name: cmos_sch
subckt ND2LL A B Z inh_gnd inh_vdd
    MP1 (Z B inh_vdd inh_vdd) EPLLGP_BS3JU w=0.77u l=0.13u nfing=1 ncrsd=1 \
        number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 nbti=0 lpe=0
    MP0 (Z A inh_vdd inh_vdd) EPLLGP_BS3JU w=0.77u l=0.13u nfing=1 ncrsd=1 \
        number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 nbti=0 lpe=0
    MN1 (Z B net15 inh_gnd) ENLLGP_BS3JU w=0.64u l=0.13u nfing=1 ncrsd=1 \
        number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 lpe=0
    MN0 (net15 A inh_gnd inh_gnd) ENLLGP_BS3JU w=0.64u l=0.13u nfing=1 \
        ncrsd=1 number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 lpe=0
ends ND2LL
// End of subcircuit definition.

// Library name: CORE9GPLL
// Cell name: AN2LL
// View name: cmos_sch
subckt AN2LL A B Z inh_gnd inh_vdd
    MP2 (Z net038 inh_vdd inh_vdd) EPLLGP_BS3JU w=1.05u l=0.13u nfing=1 \
        ncrsd=1 number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 nbti=0 \
        lpe=0
    MP1 (net038 B inh_vdd inh_vdd) EPLLGP_BS3JU w=0.38u l=0.13u nfing=1 \
        ncrsd=1 number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 nbti=0 \
        lpe=0
    MP0 (net038 A inh_vdd inh_vdd) EPLLGP_BS3JU w=0.38u l=0.13u nfing=1 \
        ncrsd=1 number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 nbti=0 \
        lpe=0
    MN2 (Z net038 inh_gnd inh_gnd) ENLLGP_BS3JU w=0.585u l=0.13u nfing=1 \
        ncrsd=1 number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 lpe=0
    MN1 (net038 B net12 inh_gnd) ENLLGP_BS3JU w=0.32u l=0.13u nfing=1 \
        ncrsd=1 number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 lpe=0
    MN0 (net12 A inh_gnd inh_gnd) ENLLGP_BS3JU w=0.32u l=0.13u nfing=1 \
        ncrsd=1 number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 lpe=0
ends AN2LL
// End of subcircuit definition.

// Library name: CORE9GPLL
// Cell name: ND2ALL
// View name: cmos_sch
subckt ND2ALL A B Z inh_gnd inh_vdd
    MP4 (net025 A inh_vdd inh_vdd) EPLLGP_BS3JU w=0.3u l=0.13u nfing=1 \
        ncrsd=1 number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 nbti=0 \
        lpe=0
    MP1 (Z B inh_vdd inh_vdd) EPLLGP_BS3JU w=0.77u l=0.13u nfing=1 ncrsd=1 \
        number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 nbti=0 lpe=0
    MP0 (Z net025 inh_vdd inh_vdd) EPLLGP_BS3JU w=0.77u l=0.13u nfing=1 \
        ncrsd=1 number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 nbti=0 \
        lpe=0
    MN4 (net025 A inh_gnd inh_gnd) ENLLGP_BS3JU w=0.15u l=0.13u nfing=1 \
        ncrsd=1 number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 lpe=0
    MN1 (Z B net12 inh_gnd) ENLLGP_BS3JU w=0.64u l=0.13u nfing=1 ncrsd=1 \
        number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 lpe=0
    MN0 (net12 net025 inh_gnd inh_gnd) ENLLGP_BS3JU w=0.64u l=0.13u \
        nfing=1 ncrsd=1 number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 \
        lpe=0
ends ND2ALL
// End of subcircuit definition.

// Library name: 4BitKSA
// Cell name: CarryOperator_4
// View name: schematic
subckt CarryOperator_4 Go Po Gi1 Pi1 Gi2 Pi2 inh_gnd inh_vdd
    g18 (Gi2 Pi1 n_1 inh_gnd inh_vdd) ND2LL
    g19 (Pi1 Pi2 Po inh_gnd inh_vdd) AN2LL
    g17 (Gi1 n_1 Go inh_gnd inh_vdd) ND2ALL
ends CarryOperator_4
// End of subcircuit definition.

// Library name: 4BitKSA
// Cell name: CarryOperator_6
// View name: schematic
subckt CarryOperator_6 Go Po Gi1 Pi1 Gi2 Pi2 inh_gnd inh_vdd
    g12 (Gi2 Pi1 n_0 inh_gnd inh_vdd) ND2LL
    g11 (Gi1 n_0 Go inh_gnd inh_vdd) ND2ALL
    Thru (GND Po) iprobe
ends CarryOperator_6
// End of subcircuit definition.

// Library name: 4BitKSA
// Cell name: CarryOperator_5
// View name: schematic
subckt CarryOperator_5 Go Po Gi1 Pi1 Gi2 Pi2 inh_gnd inh_vdd
    g18 (Gi2 Pi1 n_1 inh_gnd inh_vdd) ND2LL
    g19 (Pi1 Pi2 Po inh_gnd inh_vdd) AN2LL
    g17 (Gi1 n_1 Go inh_gnd inh_vdd) ND2ALL
ends CarryOperator_5
// End of subcircuit definition.

// Library name: 4BitKSA
// Cell name: CarryOperator_7
// View name: schematic
subckt CarryOperator_7 Go Po Gi1 Pi1 Gi2 Pi2 inh_gnd inh_vdd
    g12 (Gi2 Pi1 n_0 inh_gnd inh_vdd) ND2LL
    g11 (Gi1 n_0 Go inh_gnd inh_vdd) ND2ALL
    Thru (GND Po) iprobe
ends CarryOperator_7
// End of subcircuit definition.

// Library name: CORE9GPLL
// Cell name: HA1LL
// View name: cmos_sch
subckt HA1LL A B CO S inh_gnd inh_vdd
    MN5 (net34 net14 inh_gnd inh_gnd) ENLLGP_BS3JU w=0.3u l=0.13u nfing=1 \
        ncrsd=1 number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 lpe=0
    MN10 (S net0119 inh_gnd inh_gnd) ENLLGP_BS3JU w=0.585u l=0.13u nfing=1 \
        ncrsd=1 number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 lpe=0
    MN8 (CO net14 inh_gnd inh_gnd) ENLLGP_BS3JU w=0.585u l=0.13u nfing=1 \
        ncrsd=1 number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 lpe=0
    MN6 (net0119 B net34 inh_gnd) ENLLGP_BS3JU w=0.3u l=0.13u nfing=1 \
        ncrsd=1 number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 lpe=0
    MN4 (net0119 A net34 inh_gnd) ENLLGP_BS3JU w=0.3u l=0.13u nfing=1 \
        ncrsd=1 number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 lpe=0
    MN3 (net35 A inh_gnd inh_gnd) ENLLGP_BS3JU w=0.3u l=0.13u nfing=1 \
        ncrsd=1 number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 lpe=0
    MN2 (net14 B net35 inh_gnd) ENLLGP_BS3JU w=0.3u l=0.13u nfing=1 \
        ncrsd=1 number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 lpe=0
    MP10 (S net0119 inh_vdd inh_vdd) EPLLGP_BS3JU w=1.05u l=0.13u nfing=1 \
        ncrsd=1 number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 nbti=0 \
        lpe=0
    MP8 (CO net14 inh_vdd inh_vdd) EPLLGP_BS3JU w=1.05u l=0.13u nfing=1 \
        ncrsd=1 number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 nbti=0 \
        lpe=0
    MP6 (net0119 net14 inh_vdd inh_vdd) EPLLGP_BS3JU w=0.36u l=0.13u \
        nfing=1 ncrsd=1 number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 \
        nbti=0 lpe=0
    MP5 (net0119 A net0128 inh_vdd) EPLLGP_BS3JU w=0.63u l=0.13u nfing=1 \
        ncrsd=1 number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 nbti=0 \
        lpe=0
    MP4 (net0128 B inh_vdd inh_vdd) EPLLGP_BS3JU w=0.63u l=0.13u nfing=1 \
        ncrsd=1 number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 nbti=0 \
        lpe=0
    MP3 (net14 A inh_vdd inh_vdd) EPLLGP_BS3JU w=0.36u l=0.13u nfing=1 \
        ncrsd=1 number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 nbti=0 \
        lpe=0
    MP2 (net14 B inh_vdd inh_vdd) EPLLGP_BS3JU w=0.36u l=0.13u nfing=1 \
        ncrsd=1 number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 nbti=0 \
        lpe=0
ends HA1LL
// End of subcircuit definition.

// Library name: 4BitKSA
// Cell name: GPGenerator_3
// View name: schematic
subckt GPGenerator_3 Go Po A B inh_gnd inh_vdd
    g17 (A B Go Po inh_gnd inh_vdd) HA1LL
ends GPGenerator_3
// End of subcircuit definition.

// Library name: CORE9GPLL
// Cell name: MUX21NLL
// View name: cmos_sch
subckt MUX21NLL A B S Z inh_gnd inh_vdd
    MP39 (Z net055 net0292 inh_vdd) EPLLGP_BS3JU w=0.965u l=0.13u nfing=1 \
        ncrsd=1 number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 nbti=0 \
        lpe=0
    MP21 (net0292 B inh_vdd inh_vdd) EPLLGP_BS3JU w=0.965u l=0.13u nfing=1 \
        ncrsd=1 number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 nbti=0 \
        lpe=0
    MP23 (net055 S inh_vdd inh_vdd) EPLLGP_BS3JU w=0.965u l=0.13u nfing=1 \
        ncrsd=1 number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 nbti=0 \
        lpe=0
    MP40 (Z S net0280 inh_vdd) EPLLGP_BS3JU w=0.965u l=0.13u nfing=1 \
        ncrsd=1 number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 nbti=0 \
        lpe=0
    MP41 (net0280 A inh_vdd inh_vdd) EPLLGP_BS3JU w=0.965u l=0.13u nfing=1 \
        ncrsd=1 number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 nbti=0 \
        lpe=0
    MN37 (Z S net057 inh_gnd) ENLLGP_BS3JU w=0.535u l=0.13u nfing=1 \
        ncrsd=1 number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 lpe=0
    MN19 (net057 B inh_gnd inh_gnd) ENLLGP_BS3JU w=0.535u l=0.13u nfing=1 \
        ncrsd=1 number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 lpe=0
    MN21 (net055 S inh_gnd inh_gnd) ENLLGP_BS3JU w=0.535u l=0.13u nfing=1 \
        ncrsd=1 number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 lpe=0
    MN38 (Z net055 net0215 inh_gnd) ENLLGP_BS3JU w=0.535u l=0.13u nfing=1 \
        ncrsd=1 number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 lpe=0
    MN39 (net0215 A inh_gnd inh_gnd) ENLLGP_BS3JU w=0.535u l=0.13u nfing=1 \
        ncrsd=1 number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 lpe=0
ends MUX21NLL
// End of subcircuit definition.

// Library name: CORE9GPLL
// Cell name: IVLLX05
// View name: cmos_sch
subckt IVLLX05 A Z inh_gnd inh_vdd
    MP0 (Z A inh_vdd inh_vdd) EPLLGP_BS3JU w=0.47u l=0.13u nfing=1 ncrsd=1 \
        number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 nbti=0 lpe=0
    MN0 (Z A inh_gnd inh_gnd) ENLLGP_BS3JU w=0.25u l=0.13u nfing=1 ncrsd=1 \
        number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1 lpe=0
ends IVLLX05
// End of subcircuit definition.

// Library name: 4BitKSA
// Cell name: GPGenerator_2
// View name: schematic
subckt GPGenerator_2 Go Po A B inh_gnd inh_vdd
    g17 (A B Go Po inh_gnd inh_vdd) HA1LL
ends GPGenerator_2
// End of subcircuit definition.

// Library name: 4BitKSA
// Cell name: CarryOperator
// View name: schematic
subckt CarryOperator Go Po Gi1 Pi1 Gi2 Pi2 inh_gnd inh_vdd
    g12 (Gi2 Pi1 n_0 inh_gnd inh_vdd) ND2LL
    g11 (Gi1 n_0 Go inh_gnd inh_vdd) ND2ALL
    Thru (GND Po) iprobe
ends CarryOperator
// End of subcircuit definition.

// Library name: 4BitKSA
// Cell name: GPGenerator_1
// View name: schematic
subckt GPGenerator_1 Go Po A B inh_gnd inh_vdd
    g17 (A B Go Po inh_gnd inh_vdd) HA1LL
ends GPGenerator_1
// End of subcircuit definition.

// Library name: 4BitKSA
// Cell name: GPGenerator
// View name: schematic
subckt GPGenerator Go Po A B inh_gnd inh_vdd
    g17 (A B Go Po inh_gnd inh_vdd) HA1LL
ends GPGenerator
// End of subcircuit definition.

// Library name: 4BitKSA
// Cell name: UBPriKSA_3_0
// View name: schematic
subckt UBPriKSA_3_0 S_4 S_3 S_2 S_1 S_0 X_3 X_2 X_1 X_0 Y_3 Y_2 Y_1 Y_0 \
        Cin inh_gnd inh_vdd
    U5 (G1_2 P1_2 G0_2 P0_2 G0_1 P0_1 inh_gnd inh_vdd) CarryOperator_4
    U7 (G_15 UNCONNECTED0 G1_2 P1_2 G_26 GND inh_gnd inh_vdd) \
        CarryOperator_6
    U6 (G1_3 P1_3 G0_3 P0_3 G0_2 P0_2 inh_gnd inh_vdd) CarryOperator_5
    U8 (S_4 UNCONNECTED1 G1_3 P1_3 G1_1 GND inh_gnd inh_vdd) \
        CarryOperator_7
    U3 (G0_3 P0_3 X_3 Y_3 inh_gnd inh_vdd) GPGenerator_3
    g21 (n_2 P0_3 G_15 S_3 inh_gnd inh_vdd) MUX21NLL
    g25 (n_0 P0_2 G1_1 S_2 inh_gnd inh_vdd) MUX21NLL
    g23 (n_1 G_26 P0_1 S_1 inh_gnd inh_vdd) MUX21NLL
    g22 (P0_3 n_2 inh_gnd inh_vdd) IVLLX05
    g26 (P0_2 n_0 inh_gnd inh_vdd) IVLLX05
    g24 (G_26 n_1 inh_gnd inh_vdd) IVLLX05
    U2 (G0_2 P0_2 X_2 Y_2 inh_gnd inh_vdd) GPGenerator_2
    U4 (G1_1 UNCONNECTED G0_1 P0_1 G_26 GND inh_gnd inh_vdd) \
        CarryOperator
    U1 (G0_1 P0_1 X_1 Y_1 inh_gnd inh_vdd) GPGenerator_1
    U0 (G_26 S_0 X_0 Y_0 inh_gnd inh_vdd) GPGenerator
ends UBPriKSA_3_0
// End of subcircuit definition.

// Library name: 4BitKSA
// Cell name: UBPureKSA_3_0
// View name: schematic
subckt UBPureKSA_3_0 S_4 S_3 S_2 S_1 S_0 X_3 X_2 X_1 X_0 Y_3 Y_2 Y_1 Y_0 \
        inh_gnd inh_vdd
    U0 (S_4 S_3 S_2 S_1 S_0 X_3 X_2 X_1 X_0 Y_3 Y_2 Y_1 Y_0 GND inh_gnd \
        inh_vdd) UBPriKSA_3_0
ends UBPureKSA_3_0
// End of subcircuit definition.

// Library name: 4BitKSA
// Cell name: UBKSA_3_0_3_0
// View name: schematic
U0 (S_4 S_3 S_2 S_1 S_0 X_3 X_2 X_1 X_0 Y_3 Y_2 Y_1 Y_0 gnd vdd) \
        UBPureKSA_3_0
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 ckptclock=1800 \
    sensfile="../psf/sens.output" checklimitdest=psf 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub subcktprobelvl=2
